US06677347B2
Using the general method of Example 5, chloropropylsulfonyl chloride (0.13 ml, 1.05 mmol) was reacted with 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (0.3 g, 1.05 mmol). Recrystallization from 2-propanol yielded 0.2 g of 1-{2-[2-(1,1-dioxidoisothiazolidin-2-yl)ethoxy]ethyl}-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine as an off-white powder, m.p. 186.0-187.0° C.

reactant | chloropropylsulfonyl chloride | 1.05 mmol, 0.13 ml | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.05 mmol, 0.3 g | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5O
product | 1-{2-[2-(1,1-dioxidoisothiazolidin-2-yl)ethoxy]ethyl}-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.2 g | O=S1(N(CCC1)CCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C)=O | C18H23N5O3S
